USRE039112E1
5) 1-{2-[6-Amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclopentanol
1-{2-[6-Chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl)-1-ethynyl}-1-cyclopentanol (732 g) was dissolved in 16 liters of dimethoxyethane, 8 liters of a concentrated aqueous ammonia were added and the mixture was stirred at 70° C. for 5 hours using a sealed tube reactor. After the reaction solution was cooled in room temperature, it was diluted with 20 liters of ethyl acetate and washed with water twice (8 liters and 4 liters). The organic layer was concentrated to about 15 liters and the resulting residue was diluted with 15 liters of hexane, filtered and washed with hexane twice. Then it was dried at 50° C. for 2.5 hours to give 620 g of the product. The yield was 89%.

reactant | 1-{2-[6-Chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl)-1-ethynyl}-1-cyclopentanol | 732 g | ClC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCC1)O)C)C1=CC(=CC=C1)F | C19H16ClFN4O
reactant | ammonia | 8 liters | N | H3N
solvent | dimethoxyethane | 16 liters | C(OC)COC | C4H10O2
solvent | ethyl acetate | 20 liters | C(C)(=O)OCC | C4H8O2
product | 1-{2-[6-Amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclopentanol | 620 g, yield was 89% | NC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCC1)O)C)C1=CC(=CC=C1)F | C19H18FN5O
